US07238689B2
A solution of 9.2 g (35.7 mmoles) of (1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazol-4-yl)-methanol dissolved in 100 ml of diethyl ether was cooled to −10° C. Thereto was added 11.6 g (42.9 mmoles) of phosphorus tribromide. The mixture was stirred at room temperature overnight to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water, followed by extraction with diethyl ether. The resulting organic layer was washed with an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein, to obtain 10.0 g (yield: 87.3%) of 4-bromomethyl-1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazole.

reactant | (1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazol-4-yl)-methanol | 35.7 mmoles, 9.2 g | C(C)(C)(C)N1N=C(C(=C1Cl)CO)C(F)(F)F | C9H12ClF3N2O
reactant | phosphorus tribromide | 42.9 mmoles, 11.6 g | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-bromomethyl-1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazole | 10.0 g, yield: 87.3% | BrCC=1C(=NN(C1Cl)C(C)(C)C)C(F)(F)F | C9H11BrClF3N2
